US06790860B2
29 ml (194 mmol, 1.6 eq) DBU were added to a suspension of 41.4 g (121.4 mmol) (2S,4R)-4-Hydroxy-1-(naphthalene-2-sulfonyl)-pyrrolidine-2-carboxylic acid methyl ester in 150 ml acetonitrile at 0° C. To the resulting solution 29.25 g (194 mmol, 1.6 eq) TBDMSCl were added in portions and the reaction was stirred at RT overnight. After concentrating the crude oil was purified by column chromatography with EtOAc/hexane 1:2 on silica gel to give 49.2 g (90%) (2S,4R)-4-(tert-butyl-dimethyl-silanyloxy)-1-(naphthalene-2-sulfonyl)-pyrrolidine-2-carboxylic acid methyl ester.

reactant | DBU | 194 mmol, 29 ml, 1.6 eq | C1CCC2=NCCCN2CC1 | C9H16N2
reactant | (2S,4R)-4-Hydroxy-1-(naphthalene-2-sulfonyl)-pyrrolidine-2-carboxylic acid methyl ester | 121.4 mmol, 41.4 g | COC(=O)[C@H]1N(C[C@@H](C1)O)S(=O)(=O)C1=CC2=CC=CC=C2C=C1 | C16H17NO5S
reactant | TBDMSCl | CC(C)(C)[Si](C)(C)Cl | C6H15ClSi
solvent | acetonitrile | 150 ml | C(C)#N | C2H3N
product | (2S,4R)-4-(tert-butyl-dimethyl-silanyloxy)-1-(naphthalene-2-sulfonyl)-pyrrolidine-2-carboxylic acid methyl ester | 49.2 g, 90% | COC(=O)[C@H]1N(C[C@@H](C1)O[Si](C)(C)C(C)(C)C)S(=O)(=O)C1=CC2=CC=CC=C2C=C1 | C22H31NO5SSi
